US07700655B2
(3) 2-Acetoxy-5-chloro-N-({[3,5-bis(trifluoromethyl)phenyl]carbamoyl}-methyl)benzamide
WSC.HCl (95.9 mg, 0.5 mmol) was added to a solution of 2-acetoxy-5-chlorobenzoic acid (59.1 mg, 0.28 mmol), 2-amino-N-[3,5-bis(trifluoromethyl)phenyl]acetamide hydrochloride (80.8 mg, 0.25 mmol) and 1-hydroxybenzotriazole (37.2 mg, 0.28 mmol) in N,N-dimethylformamide (3 mL), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into diluted hydrochloric acid and extracted with ethyl acetate. After the ethyl acetate layer was washed with brine, dried over anhydrous sodium sulfate, the residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=3:2→1:1) to give the title compound (83.7 mg, 69.3%) as a white crystal.

reactant | WSC.HCl | 0.5 mmol, 95.9 mg | CCN=C=NCCCN(C)C.Cl
reactant | 2-acetoxy-5-chlorobenzoic acid | 0.28 mmol, 59.1 mg | C(C)(=O)OC1=C(C(=O)O)C=C(C=C1)Cl | C9H7ClO4
reactant | 2-amino-N-[3,5-bis(trifluoromethyl)phenyl]acetamide hydrochloride | 0.25 mmol, 80.8 mg | Cl.NCC(=O)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F
reactant | 1-hydroxybenzotriazole | 0.28 mmol, 37.2 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 2-Acetoxy-5-chloro-N-({[3,5-bis(trifluoromethyl)phenyl]carbamoyl}-methyl)benzamide | 83.7 mg, 69.3% | C(C)(=O)OC1=C(C(=O)NCC(NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O)C=C(C=C1)Cl | C19H13ClF6N2O4
